US08735440B2
Step 1. 4-(trifluoromethyl)phenyl trifluoromethanesulfonate
To a solution of 4-trifluoromethylphenol (324.2 mg, 2.0 mmol, 1 equiv) in dichloromethane (1.2 mL) was added pyridine (194.1 μL, 2.4 mmol, 1.2 equiv). A solution of triflic anhydride (370.1 μL, 2.2 mmol, 1.1 equiv) in dichloromethane (1.2 mL) was added dropwise at 0° C. The mixture was stirred at 0° C. for 1 hour, and then rt for 2.5 hours. The reaction was quenched with 1 mL of water. The organic phase was washed with saturated NaHCO3, 1M HCl and brine, then dried with MgSO4 and concentrated to give crude product. It was further purified by silica gel chromatography using 5% EtOAc/Hex to afford 449.4 mg colorless oil as product, yield 76.4%.

reactant | 4-trifluoromethylphenol | 2.0 mmol, 324.2 mg, 1 equiv | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | pyridine | 2.4 mmol, 194.1 μL, 1.2 equiv | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 2.2 mmol, 370.1 μL, 1.1 equiv | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
product | 4-(trifluoromethyl)phenyl trifluoromethanesulfonate | 449.4 mg, yield 76.4% | FC(S(=O)(=O)OC1=CC=C(C=C1)C(F)(F)F)(F)F | C8H4F6O3S
